US09193707B2
1. Synthesis of N-(2-cyanophenyl)-3,4,5-trimethoxybenzamide
Into a 1-L 3-necked round-bottom flask, was placed 2-aminobenzonitrile (20 g, 169.30 mmol, 1.00 equiv), ether (500 mL) and potassium carbonate (75 g, 542.65 mmol, 3.21 equiv). This was followed by the addition of 3,4,5-trimethoxybenzoyl chloride (40 g, 173.43 mmol, 1.02 equiv) in several batches at reflux. The mixture was stirred overnight at reflux. The resulting solution was cooled to room temperature. The reaction was then quenched by the addition of 500 mL of water. The solids were collected by filtration. This resulted in 22 g (42%) of N-(2-cyanophenyl)-3,4,5-trimethoxybenzamide as a yellow solid. MS (ESI) m/z 313 ([M+H]+).

reactant | 2-aminobenzonitrile | 169.30 mmol, 20 g, 1.00 equiv | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | potassium carbonate | 542.65 mmol, 75 g, 3.21 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trimethoxybenzoyl chloride | 173.43 mmol, 40 g, 1.02 equiv | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | ether | 500 mL | CCOCC | C4H10O
product | N-(2-cyanophenyl)-3,4,5-trimethoxybenzamide | C(#N)C1=C(C=CC=C1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C17H16N2O4
